US07214798B2
2-Amino-2-oxoethyl 2-[1-(2-quinolyl)-4-piperidyl]ethylcarbamate
The process is performed according to the procedure described in Example 3 (step 3.4). Starting with 1.14 g (3.36 mmol) of 3{2-[1-(2-quinolyl)-4-piperidyl]-ethyl}-1,3-oxazolidine-2,4-dione, described in Example 8 (step 8.2), and 9.60 ml (67.20 mmol) of a solution (7M) of aqueous ammonia in methanol, and after chromatography on silica gel, eluting with a 95/5 mixture of dichloromethane and methanol, followed by recrystallization from ethyl acetate, 0.360 g of pure product is obtained in the form of a white solid.

reactant | 3{2-[1-(2-quinolyl)-4-piperidyl]-ethyl}-1,3-oxazolidine-2,4-dione | 3.36 mmol, 1.14 g | N1=C(C=CC2=CC=CC=C12)N1CCC(CC1)CCN1C(OCC1=O)=O | C19H21N3O3
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 2-Amino-2-oxoethyl 2-[1-(2-quinolyl)-4-piperidyl]ethylcarbamate | 0.360 g | N1=C(C=CC2=CC=CC=C12)N1CCC(CC1)CCNC(OCC(=O)N)=O | C19H24N4O3
